US05547972
A solution of 3-chloropropionyl chloride (32.7 g) in methylene chloride (40 ml) was added dropwise to stirred solution of (±) 1-(4-chlorophenyl)ethylamine (40 g) in dichloromethane (260 ml) with triethylamine (28.4 g) over 45 minutes at 0°-5° C. The temperature was allowed to rise to 25° C. and the mixture stirred for a further 2 hours. The cooled reaction mixture was washed with saturated aqueous sodium bicarbonate (260 ml). The organic layer was separated, dried and filtered and the filtrate evaporated. The residue was triturated with petrol, collected by filtration and recrystallised from ethyl acetate to give 3-chloro-N-[1-(4-chlorophenyl)ethyl]propionamide, m.p. 86°-91° C. This product was obtained as a mixture with N-[1-(4-chlorophenyl)ethyl]acrylamide but was sufficiently pure for synthetic purposes. The acrylamide does not react and was removed on work-up in the next stage.

reactant | 3-chloropropionyl chloride | 32.7 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | (±) 1-(4-chlorophenyl)ethylamine | 40 g | ClC1=CC=C(C=C1)C(C)N | C8H10ClN
reactant | triethylamine | 28.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 260 ml | ClCCl | CH2Cl2
product | 3-chloro-N-[1-(4-chlorophenyl)ethyl]propionamide | ClCCC(=O)NC(C)C1=CC=C(C=C1)Cl | C11H13Cl2NO
